US05597832
55b. 5-ethylfuran-2-carboxaldehyde
A sample of DMF (9.3 mL, 120 mmol) was cooled to 0° C. and POCl3 (3.37 g, 22 mmol) was added, the mixture was stirred for 1 hour at 0° C., then 2-ethyl furan (1.92 g, 20 mmol) was added. The reaction was quenched by pouring onto ice, and the mixture was stirred for 18 hours. The mixture was extracted with hexane, which was dried over MgSO4 and concentrated to give 1.71 g of the title compound (used without further purification).

reactant | DMF | 120 mmol, 9.3 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 22 mmol, 3.37 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-ethyl furan | 20 mmol, 1.92 g | C(C)C=1OC=CC1 | C6H8O
product | 5-ethylfuran-2-carboxaldehyde | 1.71 g | C(C)C1=CC=C(O1)C=O | C7H8O2
